US07605171B2
Step C: 3-(4-(5-(6-(3,3-Difluoropyrrolidin-1-yl)-5-ethynylpyridin-3-yl)-1,2,4-oxadiazol-3-yl)-3-methylphenyl)propanoic acid
A solution of 5 mg of 3-(4-(5-(6-(3,3-difluoropyrrolidin-1-yl)-5-(trimethylsilyl)ethynylpyridin-3-yl)-1,2,4-oxadiazol-3-yl)-3-methylphenyl)propanoic acid in 200 μL of tetrabutylammonium fluoride (1.0 M in THF) was stirred at rt for 2 h. Purification by HPLC B afforded the title compound: 1HNMR (500 MHz, DMSO) δ 2.48 (m, 4H), 2.86 (t, J=7.3, 2H), 4.09 (t, J=7.3, 2H), 4.24 (t, J=13, 2H), 7.24 (d, J=8.4, 1H), 7.28 (s, 1), 7.92 (d, =8.0, 1H), 8.27 (d, J=2.3, 1H), 8.86 (d, J=2.3, 1H).

reactant | 3-(4-(5-(6-(3,3-difluoropyrrolidin-1-yl)-5-(trimethylsilyl)ethynylpyridin-3-yl)-1,2,4-oxadiazol-3-yl)-3-methylphenyl)propanoic acid | 5 mg | FC1(CN(CC1)C1=C(C=C(C=N1)C1=NC(=NO1)C1=C(C=C(C=C1)CCC(=O)O)C)C#C[Si](C)(C)C)F | C26H28F2N4O3Si
solvent | tetrabutylammonium fluoride | 1.0 M, 200 μL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-(4-(5-(6-(3,3-Difluoropyrrolidin-1-yl)-5-ethynylpyridin-3-yl)-1,2,4-oxadiazol-3-yl)-3-methylphenyl)propanoic acid | FC1(CN(CC1)C1=C(C=C(C=N1)C1=NC(=NO1)C1=C(C=C(C=C1)CCC(=O)O)C)C#C)F | C23H20F2N4O3
